US05627158
cAMP-Dependent Protein Kinase Assays
After two washes with Dulbecco's phosphate-buffered saline, cell pellets (2×106 cells) were lysed in 0.5 ml of 20 mM Tris (pH 7.5), 0.1 mM sodium EDTA, 1 mM dithiothreitol, 0.1 mM pepstatin, 0.1 mM antipain, 0.1 mM chymostatin, 0.2 mM leupeptin, 0.4 mg/ml aprotinin, and 0.5 mg/ml soybean trypsin inhibitor, using 100 strokes of a Dounce homogenizer. After centrifugation (Eppendorf 5412) for 5 min, the supernatants were adjusted to 0.7 mg protein/ml and assayed (Uhler, M. D. & McKnight, G. S. (1987) J. Biol. Chem. 262, 15202-15207) immediately. Assays (40 μl total volume) were performed for 10 min at 30° C. and contained 200 μM ATP, 2.7×106 cpm γ[32P]ATP, 20 mM MgC12, 100 μM Kemptide (Sigma K-1127) (Kemp, B. E., Graves, D. J., Benjamin, E. & Krebs, E.G. (1977) J. Biol, Chem. 252, 4888-4894), 40 mM Tris (pH 7.5), ±100 μM protein kinase inhibitor (Sigma P-3294) (Cheng, H.-C., Van Patten, S. M., Smith, A. J. & Walsh, D. A. (1985) Biochem. J. 231, 655-661), ±8 μM cAMP and 7 μg of cell extract. The phosphorylation of Kemptide was determined by spotting 20 μl of incubation mixture on phosphocellulose filters (Whatman, P81) and washing in phosphoric acid as described (Roskoski, R. (1983) Methods Enzymol. 99, 3-6). Radioactivity was measured by liquid scintillation using Econofluor-2 (NEN Research Products NEF-969).

reactant | phosphate-buffered saline | OP(=O)(O)[O-].OP(=O)([O-])[O-].[Na+].[Na+].[Na+].[Cl-].[Cl-].[K+].[K+]
reactant | sodium EDTA | 0.1 mM | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
reactant | dithiothreitol | 1 mM | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | pepstatin | 0.1 mM | C[C@@H](C(=O)N[C@@H](CC(C)C)[C@H](CC(=O)O)O)NC(=O)C[C@@H]([C@H](CC(C)C)NC(=O)[C@H](C(C)C)NC(=O)[C@H](C(C)C)NC(=O)CC(C)C)O | C34H63N5O9
reactant | antipain | 0.1 mM | CC(C)[C@@H](C(=O)N[C@@H](CCCNC(=N)N)C=O)NC(=O)[C@H](CCCNC(=N)N)NC(=O)N[C@@H](CC=1C=CC=CC1)C(=O)O | C27H44N10O6
reactant | chymostatin | 0.1 mM | CC(C)C[C@@H](C(=O)N[C@@H](CC=1C=CC=CC1)C=O)NC(=O)[C@H](C2CCNC(=N)N2)NC(=O)N[C@@H](CC=3C=CC=CC3)C(=O)O | C31H41N7O6
reactant | leupeptin | 0.2 mM | CC(C)C[C@@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCN=C(N)N)C(=O)O)NC(=O)C | C20H38N6O5
reactant | ATP | 200 μM | P(O)(=O)(OP(=O)(O)OP(=O)(O)O)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O | C10H16N5O13P3
reactant | Kemptide | 100 μM | C[C@@H](C(=O)N[C@@H](CO)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)O)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CCCNC(=N)N)NC(=O)[C@H](CC(C)C)N | C32H61N13O9
solvent | Tris | 20 mM, 0.5 ml, pH 7.5 | C(C(CO)(CO)N)O | C4H11NO3
solvent | Tris | 40 mM, pH 7.5 | C(C(CO)(CO)N)O | C4H11NO3
product | cAMP | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@H]4[C@H](O3)COP(=O)(O4)O)O)N | C10H12N5O6P
